US06313100B1
Reaction of ethyl 4-fluorobenzoate with piperidine (3 equivalents) in acetonitrile was carried out at reflux for 4 days. Dilution of the cooled reaction mixture with several volumes of water provided a precipitate, which was filtered to provide ethyl 4-(piperidin-1-yl)benzoate. Reduction of the ester with lithium aluminum hydride (2 equivalents) in tetrahydrofuran gave the corresponding alcohol (Examples 71, 72).

reactant | ethyl 4-fluorobenzoate | FC1=CC=C(C(=O)OCC)C=C1 | C9H9FO2
reactant | piperidine | 3 equivalents | N1CCCCC1 | C5H11N
reactant | water | O | H2O
solvent | acetonitrile | C(C)#N | C2H3N
product | ethyl 4-(piperidin-1-yl)benzoate | N1(CCCCC1)C1=CC=C(C(=O)OCC)C=C1 | C14H19NO2
